US06734180B1
4-(2-indanylamino)-5-(2-thienyl)thieno[2,3-d]pyrimidine
Using 4-chloro-5-(2-thienyl)thieno[2,3-d]pyrimidine (50 mg, 0.20 mmol) and 2-aminoindan (110 mg, 0.80 mmol), a similar procedure to Example 1 was carried out. The product obtained was purified by silica gel chromatography (hexane:ethyl acetate=1:1) to obtain the title compound (70 mg, 0.20 mmol) having the following physical properties:

reactant | 4-chloro-5-(2-thienyl)thieno[2,3-d]pyrimidine | 0.20 mmol, 50 mg | ClC=1C2=C(N=CN1)SC=C2C=2SC=CC2 | C10H5ClN2S2
reactant | 2-aminoindan | 0.80 mmol, 110 mg | NC1CC2=CC=CC=C2C1 | C9H11N
product | 4-(2-indanylamino)-5-(2-thienyl)thieno[2,3-d]pyrimidine | 0.20 mmol, 70 mg | C1C(CC2=CC=CC=C12)NC=1C2=C(N=CN1)SC=C2C=2SC=CC2 | C19H15N3S2
